US04259969
Preparation of 2-(2-Hydroxy-2-p-methoxyphenylethyl)-6-methylpyrazine
A solution of 5.05 grams (50 mmole) of diisopropylamine in 40 milliliters of ether was added to 47.1 mole butyllithium in hexane at 0° C. After stirring the resulting solution for 15 minutes, 5.4 grams (50 mmole) of 2,6-dimethylpyrazine in 50 milliliters of ether were added slowly and the reaction mixture was stirred at 0° C. for 30 minutes. A solution of 5.4 grams (40 mmole) of p-methoxybenzaldehyde in 40 milliliters of ether was added, and stirring at 0° C. was continued for an additional 30 minutes. Water was added, the organic phase was separated, washed with water and dried over magnesium sulfate.

reactant | diisopropylamine | 50 mmole, 5.05 grams | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 47.1 mole | C(CCC)[Li]
reactant | 2,6-dimethylpyrazine | 50 mmole, 5.4 grams | CC1=NC(=CN=C1)C | C6H8N2
reactant | p-methoxybenzaldehyde | 40 mmole, 5.4 grams | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | ether | 40 milliliters | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 50 milliliters | CCOCC | C4H10O
solvent | ether | 40 milliliters | CCOCC | C4H10O
solvent | Water | O | H2O
product | 2-(2-Hydroxy-2-p-methoxyphenylethyl)-6-methylpyrazine | OC(CC1=NC(=CN=C1)C)C1=CC=C(C=C1)OC | C14H16N2O2
